US07329662B2
5-(3-Trifluoromethyl-phenyl)-3-pyridin-3-yl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
Reaction of 1-(3-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione (142 mg, 0.5 mmol), prepared from commercially available 3-trifluoromethyl-acetophenone according to general procedure A, and 3-amino-4-(3-pyridinyl)-pyrazole [CAS No. 40545-68-2; prepared from 3-cyanomethyl-pyridine as described in Bioorg. Med. Chem. Lett. 12 (2002) 3537-3541] (80 mg, 0.5 mmol) according to general procedure B yielded the title compound as a yellow solid (126 mg, 62%). MS (ISP) 409.2 [(M+H)+]; mp 171° C.

reactant | 1-(3-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 0.5 mmol, 142 mg | FC(C=1C=C(C=CC1)C(CC(C(F)(F)F)=O)=O)(F)F | C11H6F6O2
reactant | 3-amino-4-(3-pyridinyl)-pyrazole | 0.5 mmol, 80 mg | NC1=NNC=C1C=1C=NC=CC1 | C8H8N4
product | 5-(3-Trifluoromethyl-phenyl)-3-pyridin-3-yl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 126 mg, 62% | FC(C=1C=C(C=CC1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C=2C=NC=CC2)(F)F | C19H10F6N4
